US06348461B1
Ethyl 6-(aminosulfonyl)-7-chloro-3,4-dihydro-3-oxoquinoxaline-2-carboxylate
To a solution of 4-amino-2-chloro-5-nitrobenzenesulfonamide (2.00 g, 7.95 mmol) in methanol (40 ml) were added 10% palladium-carbon (400 mg) and successively 10% hydrochloric acid (6 ml) at room temperature, and catalytic hydrogenation was conducted for 2 hours at ambient temperature under ambient pressure. Catalyst was filtered off using celite and the filtrate was distilled off under reduced pressure. After dissolved this into ethanol (16 ml), diethyl ketomalonate (1.21 ml, 7.95 mmol) was added, which was stirred for 5 hours at room temperature. The precipitate was collected by filtration, washed with ethanol and then purified by means of silica gel column chromatography [hexane-ethyl acetate=1:2] to obtain 288 mg of the title compound. Yield 11%.

reactant | 4-amino-2-chloro-5-nitrobenzenesulfonamide | 7.95 mmol, 2.00 g | NC1=CC(=C(C=C1[N+](=O)[O-])S(=O)(=O)N)Cl | C6H6ClN3O4S
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | ethanol | 16 ml | C(C)O | C2H6O
reactant | diethyl ketomalonate | 7.95 mmol, 1.21 ml | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium-carbon | 400 mg | [C].[Pd]
product | Ethyl 6-(aminosulfonyl)-7-chloro-3,4-dihydro-3-oxoquinoxaline-2-carboxylate | 288 mg, Yield 11% | NS(=O)(=O)C=1C=C2NC(C(=NC2=CC1Cl)C(=O)OCC)=O | C11H10ClN3O5S
